US04035372
The basic primary amine of this invention can be prepared by heating 4-(diphenylmethyl)piperidine with 4-nitrobenzyl chloride in the presence of sodium carbonate, using ethanol and water as solvents, and contacting the resultant 1-[(4-nitrophenyl)methyl]-4-(diphenylmethyl)piperidine in tetrahydrofuran solution at 25° with hydrogen under approximately 0.1 atm of pressure, using 5% palladium-on-charcoal as catalyst. From 4-{[4-(diphenylmethyl)-1-piperidinyl]methyl}benzenamine thus or otherwise produced, on heating in acetic acid solution with an alkanoic acid anhydride, a corresponding basic N-alkanoyl amine of this invention can be prepared. And by heating a dichloromethane solution of 4-(diphenylmethyl)piperidine and 4-[(alkylamino)/(dialkylamino)]benzoic acid in the presence of N,N1 -methanetetraylbiscyclohexanamine, then heating the resultant amide with lithium tetrahydroaluminate(1-) in tetrahydrofuran, a corresponding basic N-alkyl or N,N-dialkyl amine of this invention can be prepared.

reactant | 4-(diphenylmethyl)piperidine | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=CC=C1 | C18H21N
reactant | 4-nitrobenzyl chloride | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-[(4-nitrophenyl)methyl]-4-(diphenylmethyl)piperidine | [N+](=O)([O-])C1=CC=C(C=C1)CN1CCC(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H26N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 4-{[4-(diphenylmethyl)-1-piperidinyl]methyl}benzenamine | C1(=CC=CC=C1)C(C1CCN(CC1)CC1=CC=C(C=C1)N)C1=CC=CC=C1 | C25H28N2
